US06166011
tert-butyl 2-chloro-1H-benzimidazole-1-carboxylate
The title compound was prepared by a similar method to Preparation 21 from 2-chlorobenzimidazole and di-t-butyl dicarbonate. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 100:0 changing to 90:10, by volume, hexane:ethyl acetate to afford tert-butyl 2-chloro-1H-benzimidizole-1-carboxylate as an oil.

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 2-chloro-1H-benzimidazole-1-carboxylate | ClC1=NC2=C(N1C(=O)OC(C)(C)C)C=CC=C2 | C12H13ClN2O2
